US04559354
Analogously to Example (15b), a mixture of 49.6 g of 1-methyl-3-methylthio-5-(4-methoxyphenyl)-1H-1,2,4-triazole, 40 g of L-methionine and 380 ml of methanesulphonic acid is heated for 24 hours in a bath at 110°-120° and analogously worked up, yielding 5-(4-hydroxyphenyl)-1-methyl-3-methylthio-1H-1,2,4-triazole having a melting point of 216°-220° (from isopropanol).

reactant | 1-methyl-3-methylthio-5-(4-methoxyphenyl)-1H-1,2,4-triazole | 49.6 g | CN1N=C(N=C1C1=CC=C(C=C1)OC)SC | C11H13N3OS
reactant | L-methionine | 40 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | methanesulphonic acid | 380 ml | CS(=O)(=O)O | CH4O3S
solvent | isopropanol | C(C)(C)O | C3H8O
product | 5-(4-hydroxyphenyl)-1-methyl-3-methylthio-1H-1,2,4-triazole | OC1=CC=C(C=C1)C1=NC(=NN1C)SC | C10H11N3OS
